US07649010B2
Carvedilol HBr (Anhydrous and Solvent Free)
Carvedilol free base is dissolved in a solvent (dichloromethane, isopropyl acetate, and acetonitrile have been used) and anhydrous HBr is added (HBr in acetic acid or gaseous HBr). The solution is cooled, and crystallization ensues. The product is filtered, washed with process solvent, and dried.

reactant | Carvedilol | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O | C24H26N2O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Carvedilol HBr | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O.Br | InChI=1S/C24H26N2O4.BrH/c1-28-21-10-4-5-11-22(21)29-14-13-25-15-17(27)16-30-23-12-6-9-20-24(23)18-7-2-3-8-19(18)26-20;/h2-12,17,25-27H,13-16H2,1H3;1H
